US05721234
Preparation of 9-amino-6-nitro-1,4,7,8,9,10-hexahydro-benzo[f]quinoxaline-2,3-dione
A mixture of 9-amino-1,4,7,8,9,10-hexahydrobenzo[f]quinoxaline-2,3-dione and trifluoroacetic acid (10 mL) was cooled in an ice bath and then treated with fuming nitric acid (0.5 mL) and stirred for 3 h at 0° C. and then 1 h at room temperature. After removing the solvent by rotoevaporation, the residue was triturated with acetone and the resulting solid collected by filtration to give the product (0.22 g, 93% yield). The solid was stirred in 2N HCl for 15 min, collected by filtration and dried to give the hydrochloride salt. Anal. calc'd for C12H12N4O4.HCl.H2O--C, 43.58; H, 4.57; N, 16.94; found -C, 43.56; H, 4.08; N, 16.51.

reactant | 9-amino-1,4,7,8,9,10-hexahydrobenzo[f]quinoxaline-2,3-dione | NC1CCC2=C(C=3NC(C(NC3C=C2)=O)=O)C1 | C12H13N3O2
reactant | nitric acid | 0.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 9-amino-6-nitro-1,4,7,8,9,10-hexahydro-benzo[f]quinoxaline-2,3-dione | 0.22 g, 93% yield | NC1CCC2=C(C=3NC(C(NC3C=C2[N+](=O)[O-])=O)=O)C1 | C12H12N4O4
